* AVE UNIVERSAL VACUUM CELL — CANONICAL BEHAVIORAL MODEL
* =====================================================
* Implements the Axiom 4 saturation kernel S(V) = sqrt(1-(V/V_yield)^2)
* as ngspice behavioral sources.  All domain-specific SPICE models
* (nuclear, molecular, protein, hardware) are wiring topologies of
* this single cell.
*
* Reference:  Vol 4 Ch 1 — Vacuum Circuit Analysis
*             Backmatter App 4 — Physics Engine Architecture
*             Backmatter App 6 — SPICE Verification Manual
*
* Constants (from ave.core.constants):
*   V_SNAP  = 510998.95 V     (m_e c^2 / e)
*   V_YIELD = 43653.7 V       (sqrt(alpha) × V_SNAP)
*   I_MAX   = 124.4 A         (xi_topo × c)
*   Z_0     = 376.73 Ohm      (sqrt(mu_0 / eps_0))
*
* Subcircuit parameters:
*   L0       — base inductance (mass analog)
*   C0       — base capacitance (compliance analog)
*   R0       — base resistance (viscosity analog), default 0
*   V_YLD    — dielectric yield voltage, default V_YIELD
*   I_YMAX   — current saturation limit, default I_MAX
*
* Usage:
*   .INCLUDE ave_vacuum_cell.lib
*   X1 node_a node_b AVE_VACUUM_CELL L0=1nH C0=1pF
* =====================================================


* -----------------------------------------------------------------
* 1. AVE_VACUUM_CELL — Full Nonlinear Universal Cell
* -----------------------------------------------------------------
* Three constitutive models in parallel between nodes A and B:
*   (a) Metric Varactor:     C_eff = C0 / S(V)
*   (b) Relativistic Inductor: L_eff = L0 / S(I)
*   (c) TVS Zener:           R_eff = 0 when |V| >= V_YLD
*   (d) Memristor:           [FUTURE — tau_relax ≈ 1.29e-21 s
*                              below practical SPICE timestep]
*
* The saturation kernel S(x) = sqrt(1 - (x/x_max)^2) governs
* both the electric (voltage) and magnetic (current) sectors.
*
* Implementation notes:
*   - B-sources use min() to clamp the ratio below 0.9999 for
*     numerical stability (avoids sqrt of negative)
*   - The charge-based varactor Q = C_eff × V ensures conservation
*   - The flux-based inductor Phi = L_eff × I ensures conservation
* -----------------------------------------------------------------

.subckt AVE_VACUUM_CELL A B
+ params: L0=1n C0=1p R0=0 V_YLD=43653.7 I_YMAX=124.4

* Internal nodes
* N_I = current sense node  (inductor branch)
* N_V = voltage sense       (capacitor branch)

* ── (a) Metric Varactor (Axiom 4, electric sector) ──
* Q = C0 × V / sqrt(1 - (V/V_YLD)^2)
* ngspice B-source with charge output:
*   B<name> node+ node- Q = { expression }
* The sqrt saturation ensures C_eff → ∞ as V → V_YLD.
B_VAR A B Q = {C0 * V(A,B) / sqrt(1 - min((V(A,B)/V_YLD)**2, 0.9999))}

* ── (b) Relativistic Inductor (Axiom 4, magnetic sector) ──
* Phi = L0 × I / sqrt(1 - (I/I_YMAX)^2)
* At I → I_YMAX, L_eff → ∞ and dI/dt → 0 (velocity cannot exceed c).
* ngspice implements this via a behavioral voltage source in series with
* a small linear inductor for numerical integration:
L_BASE A N_L {L0}
B_REL_V N_L B V = {L0 * idt(V(A,B)) * (1/sqrt(1 - min((I(L_BASE)/I_YMAX)**2, 0.9999)) - 1) / (L0 + 1e-30)}

* ── (c) Optional Damping (Regime I: viscous drag) ──
* R0 = 0 for free vacuum; nonzero for material domains
R_DAMP A B {R0 + 1e-15}

* ── (d) Memristor Placeholder ──
* M(q) = dPhi/dq
* tau_relax = ell_node / c ≈ 1.288e-21 s
* At any practical SPICE frequency (f << 7.8e20 Hz),
* the vacuum responds elastically.  No hysteresis loop area.
*
* For Ch 18 LLCP metamaterial simulation, the MATERIAL tau_relax
* is orders of magnitude longer; implement as a domain adapter:
*   B_MEM A B I = { V(A,B) / M(idt(V(A,B))) }
*   where M(Phi) depends on the material-specific yield dynamics.

.ends AVE_VACUUM_CELL


* -----------------------------------------------------------------
* 2. AVE_VACUUM_CELL_LINEAR — Sanity-Check Linear Cell
* -----------------------------------------------------------------
* Identical topology but with constant L, C, R.
* Use for comparison: any deviation between LINEAR and NONLINEAR
* runs is due to Axiom 4 saturation effects.

.subckt AVE_VACUUM_CELL_LINEAR A B
+ params: L0=1n C0=1p R0=0

L1 A B {L0}
C1 A B {C0}
R1 A B {R0 + 1e15}

.ends AVE_VACUUM_CELL_LINEAR


* -----------------------------------------------------------------
* 3. AVE_EE_BENCH — EE Bench Dielectric Yield Plateau
* -----------------------------------------------------------------
* From KB: vol4/simulation/ch17-hardware-netlists/ee-bench-netlist.md
* Single varactor cell for DC sweep verification.
* Expected: C_eff/C0 = 1/sqrt(1-(V/V_yield)^2)
*
* Usage:
*   .INCLUDE ave_vacuum_cell.lib
*   V_SWEEP N_GAP GND DC 0
*   X1 N_GAP GND AVE_EE_BENCH C0=10p V_YLD=43650
*   R_PAR N_GAP GND 1G
*   .DC V_SWEEP 0 45000 100
*   .PROBE I(V_SWEEP)

.subckt AVE_EE_BENCH A B
+ params: C0=10p V_YLD=43653.7

B_Q A B Q = {C0 * V(A,B) / sqrt(1 - min((V(A,B)/V_YLD)**2, 0.9999))}

.ends AVE_EE_BENCH


* =====================================================
* END OF AVE UNIVERSAL VACUUM CELL LIBRARY
* =====================================================
